US08247403B2
(2) 8-(cis-2,6-dimethylmorpholin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepine dihydrochloride
A mixture of tert-butyl 8-(cis-2,6-dimethylmorpholin-4-yl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (300 mg, 0.828 mmol), ethyl acetate (1 ml) and 4N hydrogen chloride-ethyl acetate solution (6 ml) was stirred for 1 hr at room temperature, and the solvent was evaporated under reduced pressure. The residue was recrystallized from a mixed solvent of methanol and ether to give the desired product (225 mg, 81.2%) as a solid.

reactant | tert-butyl 8-(cis-2,6-dimethylmorpholin-4-yl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 0.828 mmol, 300 mg | C[C@@H]1CN(C[C@@H](O1)C)C1=CC2=C(CN(CCO2)C(=O)OC(C)(C)C)C=C1 | C20H30N2O4
reactant | hydrogen chloride-ethyl acetate | 4N, 6 ml | C(C)(=O)OCC.Cl
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
product | 8-(cis-2,6-dimethylmorpholin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepine dihydrochloride | 225 mg, 81.2% | Cl.Cl.C[C@@H]1CN(C[C@@H](O1)C)C1=CC2=C(CNCCO2)C=C1 | InChI=1S/C15H22N2O2.2ClH/c1-11-9-17(10-12(2)19-11)14-4-3-13-8-16-5-6-18-15(13)7-14;;/h3-4,7,11-12,16H,5-6,8-10H2,1-2H3;2*1H/t11-,12+;;
